US05358949
1.6 Grams of 3-amino-8-methyl-3,4-dihydrocarbostyril hydrochloride was suspended in 30 ml of acetone, then 2.6 g of ethyl iodide and 2.6 g of potassium carbonate were added thereto, next the mixture was placed in a sealed tube and reacted by heating at 120° C. for 10 hours. To the reaction mixture, was added dichloromethane-water, and the organic layer was collected by separation. The organic layer was washed with water, then dried with anhydrous sodium sulfate. The solvent was removed by evaporation, then the residue thus obtained was purified by a silica gel column chromatography (eluent: dichloromethane:methanol=100:1). Recrystallized from ethanol-diethyl ether to obtain 1.5 g of 3-diethylamino-8-methyl-3,4-dihydrocarbostyril hydrochloride. White powdery substance. Melting point: 231.5°-233° C.

reactant | 3-amino-8-methyl-3,4-dihydrocarbostyril hydrochloride | Cl.NC1C(NC2=C(C=CC=C2C1)C)=O
reactant | ethyl iodide | 2.6 g | C(C)I | C2H5I
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane water | ClCCl.O
reactant | acetone | 30 ml | CC(=O)C | C3H6O
product | 3-diethylamino-8-methyl-3,4-dihydrocarbostyril hydrochloride | 1.5 g | Cl.C(C)N(C1C(NC2=C(C=CC=C2C1)C)=O)CC | InChI=1S/C14H20N2O.ClH/c1-4-16(5-2)12-9-11-8-6-7-10(3)13(11)15-14(12)17;/h6-8,12H,4-5,9H2,1-3H3,(H,15,17);1H
